US04666637
adding said reaction mixture to water or diluted sufuric acid to decompose said excess chlorosulfonic acid and to form a chlorobenzene sulfochloride layer and a sulfuric acid layer having a sulfuric acid concentration of from 60 to 90% after completion of said decomposition, said decomposition being carried out at a temperature of from 50° to 85° C., and driving off remaining hydrogen chloride from the system; and

reactant | sufuric acid | CCC(C)CCCCC(=O)NC(CCN)C(=O)NC(C(C)O)C(=O)NC(CCN)C(=O)NC1CCNC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC(=O)C(NC1=O)CCN)CC2=CC=CC=C2)CC(C)C)CCN)CCN)C(C)O.OS(=O)(=O)O
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | water | O | H2O
product | chlorobenzene sulfochloride | S(=O)(=O)(O)Cl.ClC1=CC=CC=C1 | InChI=1S/C6H5Cl.ClHO3S/c7-6-4-2-1-3-5-6;1-5(2,3)4/h1-5H;(H,2,3,4)
